US08334292B1
Step 4: Preparation of 4-((R)-tetrahydrofuran-3-yloxy)-5-(4-((S)-tetrahydrofuran-3-yloxy)phenyl)-N-(cis-4-methylcyclohexyl)pyrimidin-2-amine
Using the procedure of Example 1, Step 3, 4-((R)-tetrahydrofuran-3-yloxy)-5-bromo-N-(cis-4-methylcyclohexyl)pyrimidin-2-amine was reacted with 2-(4-((S)-tetrahydrofuran-3-yloxy)phenyl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane to provide the title compound as a free base.

reactant | 4-((R)-tetrahydrofuran-3-yloxy)-5-bromo-N-(cis-4-methylcyclohexyl)pyrimidin-2-amine | O1C[C@@H](CC1)OC1=NC(=NC=C1Br)N[C@@H]1CC[C@@H](CC1)C | C15H22BrN3O2
reactant | 2-(4-((S)-tetrahydrofuran-3-yloxy)phenyl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | O1C[C@H](CC1)OC1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C16H23BO4
product | 4-((R)-tetrahydrofuran-3-yloxy)-5-(4-((S)-tetrahydrofuran-3-yloxy)phenyl)-N-(cis-4-methylcyclohexyl)pyrimidin-2-amine | O1C[C@@H](CC1)OC1=NC(=NC=C1C1=CC=C(C=C1)O[C@@H]1COCC1)N[C@@H]1CC[C@@H](CC1)C | C25H33N3O4
